US08802858B2
4-[1-(2-Trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-furazan-3-ylamine
To a stirred suspension of 0.5 g of 4-(1H-benzoimidazol-2-yl)-furazan-3-ylamine (CAS 332026-86-5) (2.49 mmol; 1.0 eq.) in 15 mL of dry tetrahydrofuran cooled to 0° C. are added portionwise 0.075 g of sodium hydride (2.98 mmol; 1.2 eq.). After stirring for 10 min at 0-5° C., the resulting clear solution is treated with 0.54 mL of 2-(trimethylsilyl)ethoxymethyl chloride (2.91 mmol; 1.17 eq.). The reaction solution is stirred for 0.5 h at 0-5° C. and then diluted with 30 mL of ethyl acetate. The solution is washed with water (20 mL) and brine (20 mL), dried over magnesium sulfate, filtered and concentrated to dryness. The oily residue is triturated in diisopropylether (10 mL) and the solvent is removed under reduced pressure to give 0.78 g of the desired product as an off-white solid.

reactant | 4-(1H-benzoimidazol-2-yl)-furazan-3-ylamine | 2.49 mmol, 0.5 g, 1.0 eq. | N1C(=NC2=C1C=CC=C2)C=2C(=NON2)N | C9H7N5O
reactant | sodium hydride | 2.98 mmol, 0.075 g, 1.2 eq. | [H-].[Na+]
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 2.91 mmol, 0.54 mL, 1.17 eq. | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 4-[1-(2-Trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-furazan-3-ylamine | 0.78 g | C[Si](CCOCN1C(=NC2=C1C=CC=C2)C=2C(=NON2)N)(C)C | C15H21N5O2Si
